US05180521
4'-ethylbiphenyl-4-yl 1-cyano-3-methylcyclohexanecarboxylate
A solution of 23 g of dicyclohexylcarbodiimide in 50 ml of CH2Cl2 is added to a mixture of 16 g of 1-cyano-3-methyl-cyclohexanecarboxylic acid, 25 g of 4'-hexyl-biphenyl-4-ol, 1.2 g of 4-diethylaminopyridine and 200 ml of methylene chloride at room temperature and the mixture is stirred for 2 hours. Customary working up and separation by column chromatography (silica gel/toluene) gives 4'-hexylbiphenyl-4-yl 1-cyano-3-methylcyclohexanecarboxylic as the pure product by recrystallization, m.p. 51°, [α]D20 =+2.2°.

reactant | dicyclohexylcarbodiimide | 23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-cyano-3-methyl-cyclohexanecarboxylic acid | 16 g | C(#N)C1(CC(CCC1)C)C(=O)O | C9H13NO2
reactant | 4'-hexyl-biphenyl-4-ol | 25 g | C(CCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H22O
reactant | 4-diethylaminopyridine | 1.2 g | C(C)N(C1=CC=NC=C1)CC | C9H14N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4'-ethylbiphenyl-4-yl 1-cyano-3-methylcyclohexanecarboxylate | C(#N)C1(CC(CCC1)C)C(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)CC | C23H25NO2
